US08580785B2
a) Preparation of 6-amino-7-chloro-1H-benzoimidazole-5-carboxylic acid methyl ester
See step e) of example H7 using 2,4,5-triamino-3-chloro-benzoic acid methyl ester as starting material and 2 equivalents of formamidine acetate. The reaction is stirred 2 days at a temperature of 80° C. Then the mixture is extracted with a solution of NaHCO3 saturated (2 times) and EtOAc. The organic phase is washed once with brine, dried on Na2SO4, filtrated and evaporated. A red-violet solid is obtained within 64% yield. LC/MS: 226/228 (M+1)+

reactant | 2,4,5-triamino-3-chloro-benzoic acid methyl ester | COC(C1=C(C(=C(C(=C1)N)N)Cl)N)=O | C8H10ClN3O2
reactant | formamidine acetate | 2 equivalents | C(C)(=O)O.C(=N)N
product | 6-amino-7-chloro-1H-benzoimidazole-5-carboxylic acid methyl ester | 64% yield | COC(=O)C1=CC2=C(NC=N2)C(=C1N)Cl | C9H8ClN3O2
